US04937240
To a solution of 1.4 g of 3-[4-(2-chlorophenyl)-6,9-dimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-2-yl]propionic acid in 20 ml of dimethylformamide are added 0.5 g of N-hydroxybenzotriazole and 0.35 g of morpholine and stirred at room temperature for 10 minutes. To the mixture is added 0.9 g of dicyclohexyl carbodiimide under ice-cooling and stirred for 3 hours and furthermore stirred at room temperature for 18 hours. The resulting dicyclohexylurea is filtered off, the filtrate is concentrated under reduced pressure and then the residue is dissolved in 100 ml of chloroform. The solution is washed with 50 ml of 5% aqueous sodium hydrogencarbonate solution and water and dried over anhydrous magnesium sulfate. After separating by filtration, the filtrate is concentrated under reduced pressure and the residue is crystallized from isopropyl ether. The precipitated crystals are collected by filtration and recrystallized from ethyl acetate to give 1 g of 3-[4 -(2-chlorophenyl)-6,9-dimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-2-yl]propionic acid morpholide as colorless crystals, melting at 162°-163° C.

reactant | 3-[4-(2-chlorophenyl)-6,9-dimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-2-yl]propionic acid | 1.4 g | ClC1=C(C=CC=C1)C1=NC(C=2N(C3=C1C=C(S3)CCC(=O)O)C(=NN2)C)C | C19H17ClN4O2S
reactant | N-hydroxybenzotriazole | 0.5 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | morpholine | 0.35 g | N1CCOCC1 | C4H9NO
reactant | dicyclohexyl carbodiimide | 0.9 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3-[4 -(2-chlorophenyl)-6,9-dimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-2-yl]propionic acid morpholide | 1 g | ClC1=C(C=CC=C1)C1=NC(C=2N(C3=C1C=C(S3)CCC(=O)N3CCOCC3)C(=NN2)C)C | C23H24ClN5O2S
